US06589970B2
(6-Methoxy-naphthalen-2-ylmethylene)-methyl-amine (20.0 g, 100 mmol), prepared in the previous step, was dissolved with heating in 300 mL of absolute ethanol. At room temperature, sodium borohydride (3.783 g, 100 mmol) was added portion wise. The reaction stirred under nitrogen for 18 h. 1N HCl was added to the reaction until pH 1 (litmus paper). The solvent was removed under reduced pressure and the resulting residue was partitioned between methylene chloride and water. The aqueous layer was made basic with 1N NaOH. The aqueous layer was separated and extracted with methylene chloride. The combined organic extracts were dried (MgSO4) and solvent removed under reduced pressure to give (6-methoxy-naphthalen-2-ylmethyl)-methyl-amine (18.80 g, 93.5%) as an off-white solid, mp 96-104° C.

reactant | (6-Methoxy-naphthalen-2-ylmethylene)-methyl-amine | 100 mmol, 20.0 g | COC=1C=C2C=CC(=CC2=CC1)C=NC | C13H13NO
reactant | sodium borohydride | 100 mmol, 3.783 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | (6-methoxy-naphthalen-2-ylmethyl)-methyl-amine | 18.80 g, 93.5% | COC=1C=C2C=CC(=CC2=CC1)CNC | C13H15NO
